2149-03-02 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-1**] Events:
   - patient overbreathing vent settings, on AC Vt 500, FiO2 100% then
   weaned to 40%, PEEP 5, RR 12 (sometimes overbreathing setting)
   - low UO with about 10 cc/hr, Cr normal, 250 cc bolus given x2 without
   much effect; foley flushing, urine lytes sent
   - IP to see in the AM
   - PIPs to 40s, responsive to albuterol, did trial of heavy sedation to
   prolong expiratory phase but continued to have high PIPs
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-3-2**] 05:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-2**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.6
   HR: 62 (62 - 116) bpm
   BP: 106/66(76) {106/66(75) - 177/101(122)} mmHg
   RR: 12 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    522 mL
                                                                    620 mL
   PO:
             TF:
   IVF:
                                                                     22 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                     80 mL
   Urine:
                                                                     75 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    447 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 283 (283 - 283) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.35/58/179/30/4
   Ve: 6.5 L/min
   PaO2 / FiO2: 447
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   276 K/uL
   10.1 g/dL
   157 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   10 mg/dL
   106 mEq/L
   142 mEq/L
   30.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2149-3-2**]  03:51 AM
                             [**2149-3-2**]  06:31 AM
   WBC
   4.2
   Hct
   30.2
   Plt
   276
   Cr
   0.7
   TCO2
   33
   Glucose
   157
   Other labs: PT / PTT / INR:14.3/31.5/1.2, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 75 y/o F with tacheobronchomalacia s/p stenting, OSA, COPD
   now presents with SOB
   .
   # SOB: Based on history, she may have initially presented with COPD
   exacerbation with no compromise of her oxygenation; however, while in
   ED, she had another acute event causing hypoxia and DOE. My
   differential for her sudden hypoxia and tachycardia includes mucous
   plug, PE. there was no report of aspiration event. She has not have
   fever, leukocytosis, or clear CXR infiltrate to suggest pna. Of note,
   he has very high PiPs (35), plats 18.
   - still unclear etiology, possibly mucous plugging vs. severe
   obstructive (both insipatory and expiratory) disease v. flash after
   diastolic dysfunction exaccerbation
   - continue steroid taper
   - add on BNP
   - likely keep on vent through day today, attempt wean tomorrow
   - f/u IP recs
   .
   # Low UO
 overnight, low urine output, with urine lytes consistent
   with volume down
   - rehydrate slowly with hx of diastolic dysfunction
   .
   # Anemic
 stable, will guiac stools and send iron studies
   .
   # FEN: No IVF, replete electrolytes, NPO
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: presumed full
   .
   # Communication: Patient
   pt's son [**Name (NI) 5616**]([**Telephone/Fax (1) 5617**])
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-1**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-03-02 11:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, respiratory failure,
   tracheobronchomalacia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   High peak airway pressures seemed to respond for a time to
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-3-2**] 05:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-2**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.3
C (95.6
   HR: 59 (56 - 116) bpm
   BP: 117/67(79) {95/57(65) - 177/101(122)} mmHg
   RR: 14 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    522 mL
                                                                    784 mL
   PO:
             TF:
   IVF:
                                                                     22 mL
                                                                    724 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                    190 mL
   Urine:
                                                                     75 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    447 mL
                                                                    594 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 283 (283 - 283) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/58/179/30/4
   Ve: 6.8 L/min
   PaO2 / FiO2: 447
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Very soft breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   , No(t) Diminished: , No(t) Absent : , Rhonchorous: Inspiratory and
   expiratory), Recruiting expiratory muscles; prolonged expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   276 K/uL
   157 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   10 mg/dL
   106 mEq/L
   142 mEq/L
   30.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2149-3-2**]  03:51 AM
                             [**2149-3-2**]  06:31 AM
   WBC
   4.2
   Hct
   30.2
   Plt
   276
   Cr
   0.7
   TCO2
   33
   Glucose
   157
   Other labs: PT / PTT / INR:14.3/31.5/1.2, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:4.0 mg/dL
   Imaging: CXR: bibasilar densities left greater than right
   Chest CT: no focal infiltrates. No apparent Pulmonary embolism.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   TRACHEOBRONCOMALACIA
   ANEMIA
   Patient, when on assist control, had evidence on vent of significant
   expiratory airflow obstruction with mild autoPEEP. We switched her to
   PSV and she is tolerating [**8-27**] well. Will leave her there for now as we
   decrease sedation. Exam reveals soft wheezes throughout, both
   inspiratory and expiratory. Will continue steroids and bronchodilators.
   Patient has had echo in the past suggestive of diastolic dysfunction;
   may have had acute CHF as part of [**Last Name **] problem last night. Will check
   BNP.  No evidence for pulmonary infection now.
   Hct 30. No evidence of acute bleeding. Not at transfusion threshold.
   Guaiac stool.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2149-3-1**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2149-03-03 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-2**] Events:
   - steroids continued
   - albuterol Q2H
   - changed to PSV 8 PEEP 8
   - in the AM, trial of PSV 8 PEEP 5
 MULTI LUMEN - START [**2149-3-2**] 02:26 PM
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-3**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 68 (56 - 118) bpm
   BP: 110/55(68) {95/55(65) - 125/93(100)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,520 mL
                                                                    260 mL
   PO:
             TF:
             87 mL
   IVF:
                                                                  1,380 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                    483 mL
                                                                     65 mL
   Urine:
                                                                    483 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,037 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 500 (410 - 539) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/59/101/31/3
   Ve: 9.5 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General: intubated, sedated, open eyes and nods head to commands
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   293 K/uL
   9.9 g/dL
   105 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   13 mg/dL
   108 mEq/L
   143 mEq/L
   30.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2149-3-2**]  03:51 AM
                             [**2149-3-2**]  06:31 AM
                             [**2149-3-3**]  03:07 AM
                             [**2149-3-3**]  06:48 AM
   WBC
   4.2
   4.6
   Hct
   30.2
   30.9
   Plt
   276
   293
   Cr
   0.7
   0.8
   TCO2
   33
   33
   Glucose
   157
   105
   Other labs: PT / PTT / INR:12.6/36.6/1.1, Ca++:8.9 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is a 75 y/o F with tacheobronchomalacia s/p stenting, OSA, COPD
   now presents with SOB
   .
   # SOB: Based on history, she may have initially presented with COPD
   exacerbation with no compromise of her oxygenation; however, while in
   ED, she had another acute event causing hypoxia and DOE.  Differential
   for acute respiratory distress include distal malacia to her stent,
   vocal cord dysfunction, respiratory muscle weakness or less likely
   flashing with diastolic heart failure.
   - extubated and bronched today by IP showing R distal malacia and
   possible vocal cord dysfunction
   - IV steroids, racemic epinephrine and bipap after extubation with goal
   to avoid reintubation
   - continue nebs scheduled and PRN
   - add on BNP was slightly higher than previous, but likely not cause of
   this acute resp failure
   - eventual consult of ENT for vocal cord dysfunction
   - sitting and lying resp muscle function testing
   - psych consult eventually for vocal cord dysfunction/? of anxiety
   .
   # Volume status -  urine output has increased, urine lytes still
   suggest she is volume depleted
   - NPO while intubated and on bipap, consider starting diet after resp
   status improves
   - maintenance IVFs
   .
   # Anemic
 stable, will guiac stools and send iron studies
   .
   # FEN: No IVF, replete electrolytes, NPO
   .
   # Prophylaxis: Subcutaneous heparin, H2 blocker
   .
   # Access: R IJ CVL placed [**3-2**]
   .
   # Code: Full
   .
   # Communication: Patient
   pt's son [**Name (NI) 5616**]([**Telephone/Fax (1) 5617**])
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-3-3**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-1**] 06:29 PM
   Multi Lumen - [**2149-3-2**] 02:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-03-04 06:35:00 Physician Resident Progress Note
Chief Complaint: respiratroy distress
   24 Hour Events:
   [**3-3**] overnight events:
   - patient extubated and resp stable
   - started prednisone 60mg PO x3 days
 INVASIVE VENTILATION - STOP [**2149-3-3**] 11:32 AM
 NON-INVASIVE VENTILATION - START [**2149-3-3**] 12:43 PM
 BRONCHOSCOPY - At [**2149-3-3**] 01:23 PM
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-3-3**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-4**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 81 (67 - 90) bpm
   BP: 148/82(93) {118/53(67) - 150/86(134)} mmHg
   RR: 17 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,903 mL
                                                                    116 mL
   PO:
             50 mL
   TF:
                                                                     70 mL
   IVF:
                                                                  1,703 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    190 mL
   Urine:
                                                                    600 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,303 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (394 - 473) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.34/59/101/32/3
   NIF: -45 cmH2O
   Ve: 6.4 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General: intubated, sedated, open eyes and nods head to commands
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   310 K/uL
   9.7 g/dL
   153 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   9 mg/dL
   105 mEq/L
   142 mEq/L
   29.5 %
   5.9 K/uL
        [image002.jpg]
                             [**2149-3-2**]  03:51 AM
                             [**2149-3-2**]  06:31 AM
                             [**2149-3-3**]  03:07 AM
                             [**2149-3-3**]  06:48 AM
                             [**2149-3-4**]  03:00 AM
   WBC
   4.2
   4.6
   5.9
   Hct
   30.2
   30.9
   29.5
   Plt
   [**Telephone/Fax (3) 5671**]
   Cr
   0.7
   0.8
   0.6
   TCO2
   33
   33
   Glucose
   157
   105
   153
   Other labs: PT / PTT / INR:12.9/36.7/1.1, Ca++:8.6 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 75 y/o F with tacheobronchomalacia s/p stenting, OSA, COPD
   now presents with SOB
   .
   # SOB: Based on history, she may have initially presented with COPD
   exacerbation with no compromise of her oxygenation; however, while in
   ED, she had another acute event causing hypoxia and DOE.  Differential
   for acute respiratory distress include distal malacia to her stent,
   vocal cord dysfunction, respiratory muscle weakness or less likely
   flashing with diastolic heart failure.
   - due to possibility of asthma as cause, would continue steroids for
   2-3 weeks.  One week of 60 mg prednisone PO, then one week of 40 mg PO
   and then a taper.
   - continue albuterol/atrovent nebs.  Add on budesonide nebs (to be sent
   home on inhaled steroids).
   - ENT to evaluate for possible vocal cord dysfunction
 on bronch had
   paradoxical movement initially and edematous vocal cords
 if does have
   paradoxical dysfunction, consider outpatient psych and behavioral
   therapy
   - high dose PPI for vocal cord edema likely caused by reflux
   - distal malacia seen, could be contributing factor, IP following;
   stent in place is stable without much granulation tissue
   .
   # Volume status -  urine output has increased, urine lytes still
   suggest she is volume depleted
   - eating to hunger/thirst now, is more towards baseline
   .
   # Anemic
 stable, will guiac stools and send iron studies
   .
   # FEN: No IVF, replete electrolytes, diet as tolerated
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: R IJ CVL placed [**3-2**]
   .
   # Code: Full
   .
   # Communication: Patient
   pt's son [**Name (NI) 5616**]([**Telephone/Fax (1) 5617**])
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-1**] 06:29 PM
   Multi Lumen - [**2149-3-2**] 02:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: